US06800636B2
1N-tert-BUTOXYCARBONYL-2(R/S)-(2-HYDROXYETHYL)-PIPERIDINE
2(R/S)-(2-Hydroxyethyl)piperidine (5 g, 38.77 mmoles) and sodium hydroxide (1.55 g, 67.4mmoles) were dissolved in THF-water (1:1) (100 mL) and di-tert-butyldicarbonate (9.29 g, 42.6 mmoles) was added and the mixture was stirred at 25° C. for 120 h. The solution was treated with BioRad 50W-X4 (RSO3H) resin (42 mL) and filtered. The resin was washed with water and THF and the combined filtrates were evaporated to dryness. Chromatography on silica gel using 1% (10% conc. NH4OH in methanol)-dichloromethane as the eluant afforded the title compound (8.87 g, 95%): CIMS: m/z 230.2 (MH+); δH (CDCl3) 1.47 ppm (9H, s, CH3); δH (CDCl3) CH3: 28.4, 28.4, 28.4; CH2: 19.2, 25.6, 29.6, 32.3, ˜39.6, ˜58.3; CH: ˜45.9; C: 80.1, carbonyl not visible.

reactant | 2(R/S)-(2-Hydroxyethyl)piperidine | 38.77 mmoles, 5 g | OCCC1NCCCC1 | C7H15NO
reactant | sodium hydroxide | 67.4mmoles, 1.55 g | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 42.6 mmoles, 9.29 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 100 mL | C1CCOC1.O
product | tert-BUTOXYCARBONYL-2(R/S)-(2-HYDROXYETHYL)-PIPERIDINE | 8.87 g, 95% | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
